US06582351B1
To a suspension of 3-(3-chloro-4-methoxybenzyl)-1-(piperidin-4-yl)-5-cyano-2,3-dihydro-1H-benzimidazole-2-one (91 mg) in methanol (5 mL) were added 37% formaldehyde aqueous solution (220 mg), sodium cyanotrihydroborate (43.2 mg) and acetic acid (5 drops) under nitrogen at ambient temperature. After stirring for 2 hours at same temperature, the reaction mixture was poured into saturated sodium bicarbonate solution and extracted with chloroform. The organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was triturated with diethyl ether to give 3-(3-chloro-4-methoxybenzyl)-5-cyano-1-(1-methylpiperidin-4-yl)-2,3-dihydro-1H-benzimidazole-2-one (75 mg) as an amorphous powder.

reactant | 3-(3-chloro-4-methoxybenzyl)-1-(piperidin-4-yl)-5-cyano-2,3-dihydro-1H-benzimidazole-2-one | 91 mg | ClC=1C=C(CN2C(N(C3=C2C=C(C=C3)C#N)C3CCNCC3)=O)C=CC1OC | C21H21ClN4O2
reactant | formaldehyde | 220 mg | C=O | CH2O
reactant | sodium cyanotrihydroborate | 43.2 mg | [B-]C#N.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 5 mL | CO | CH4O
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
product | 3-(3-chloro-4-methoxybenzyl)-5-cyano-1-(1-methylpiperidin-4-yl)-2,3-dihydro-1H-benzimidazole-2-one | 75 mg | ClC=1C=C(CN2C(N(C3=C2C=C(C=C3)C#N)C3CCN(CC3)C)=O)C=CC1OC | C22H23ClN4O2
